US04665188
2.1 g of ethyl 6-(2-amino-5-thiazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate was dissolved in 23 ml of phosphoric acid and 12 ml of concentrated nitric acid was added thereto. - A solution of 0.46 g of sodium nitrite in 4 ml of water was added dropwise to the mixture. The resulting mixture was stirred at -8° C. for 20 minutes. The reaction mixture was added to a solution of 5.28 g of cuprous chloride in 7 ml of concentrated hydrochloric acid at -5° C. The resulting mixture was stirred at -8° l to 0° C. for 1.5 hours and 100 ml of an ice-cold water was added thereto. The mixture was neutralized by adding sodium carbonate and the resulting mixture was extracted with chloroform. The extract was washed with water and dried and then concentrated in vacuo. The residue was dissolved in 15 ml of acetic acid and 14.4 g of zinc powder was added portionwise thereto under heating. The mixture was heated under reflux for 2 hours. After cooling, the insoluble material was removed by filtration. The filtrate was concentrated in vacuo and the residue was dissolved in chloroform. The solution was washed with water, dried and concentrated in vacuo. The residue was purified by silica gel column chromatography using a mixture of methanol and chloroform (2:98 by volume) for elution to give 1.27 g of ethyl 6-(5-thiazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate as an oil.

reactant | ethyl 6-(2-amino-5-thiazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 2.1 g | NC=1SC(=CN1)CC1CC=2C=CC(=CC2CC1)C(=O)OCC | C17H20N2O2S
reactant | nitric acid | 12 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | 0.46 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | phosphoric acid | 23 ml | P(O)(O)(O)=O | H3O4P
solvent | water | 4 ml | O | H2O
solvent | hydrochloric acid | 7 ml | Cl | ClH
product | ethyl 6-(5-thiazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 1.27 g | S1C=NC=C1CC1CC=2C=CC(=CC2CC1)C(=O)OCC | C17H19NO2S
